US09328134B2
Bromotrimethylsilane (0.255 mL, 1.93 mmol, commercially available from Sigma Aldrich) was added dropwise to a stirred solution of diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate (0.110 g, 0.193 mmol) in DCM (6 mL) at 0° C. The cooling bath was removed, and the reaction mixture was allowed to warm to room temperature and stir for 21 h. The reaction mixture was concentrated in vacuo. The resulting residue was dissolved in MeOH and stirred for 2 h. The solution was then concentrated in vacuo to give (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonic acid as a light orange oil (0.103 g, 104% yield). The material thus obtained was taken on without further purification.

reactant | Bromotrimethylsilane | Br[Si](C)(C)C | C3H9BrSi
reactant | diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate | 0.193 mmol, 0.110 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CP(OCC)(OCC)=O | C32H41O7P
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonic acid | 0.103 g, 104% yield | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CP(O)(O)=O | C28H33O7P
